US07807709B2
d. 4-Methoxy-5-(3-methoxy-propoxy)-2-methyl-benzoic acid
To a solution of 4-methoxy-5-(3-methoxy-propoxy)-2-methyl-benzaldehyde (1.25 g, 5.25 mmol) in a 3:1 mixture of tert-butanol/CH2Cl2 (60 mL) is added 2-methyl-2-butene (25.0 mL), followed by dropwise addition of a solution of NaClO2 (5.81 g, 51.4 mmol) and NaH2PO4 (4.07 g, 33.6 mmol) in water (45 mL) over 15 min at room temperature, and stirring is continued overnight. The reaction mixture is poured into ice/saturated aqueous NaHCO3 solution, the water phase is washed with AcOEt, then acidified and extracted with AcOEt. The combined organics are washed with brine, dried (Na2SO4) and concentrated to give a yellow solid. The crude product is stirred for 30 min in a 95:5 mixture of hexaneldiisopropyl ether (25 mL), the precipitate is filtered off, washed with a 95:5 mixture of hexane/diisopropyl ether and dried to give the title compound as yellowish solid. MS: 253.0 [M−H]+. tR (HPLC, Nucleosil C18HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 3.23 min. 1H-NMR (CDCl3): δ 1.96 (m, 2H), 2.51 (s, 3H), 3.27 (s, 3H), 3.48 (m, 2H), 3.84 (s, 3H), 4.00 (m, 2H), 6.89 (s, 1H), 7.41 (s, 1H) ppm.

reactant | 4-methoxy-5-(3-methoxy-propoxy)-2-methyl-benzaldehyde | 5.25 mmol, 1.25 g | COC1=CC(=C(C=O)C=C1OCCCOC)C | C13H18O4
reactant | tert-butanol CH2Cl2 | 60 mL | C(C)(C)(C)O.C(Cl)Cl
reactant | 2-methyl-2-butene | 25.0 mL | CC(C)=CC | C5H10
reactant | NaClO2 | 51.4 mmol, 5.81 g | [O-]Cl=O.[Na+]
solvent | water | 45 mL | O | H2O
solvent | ether | 25 mL | CCOCC | C4H10O
product | 4-Methoxy-5-(3-methoxy-propoxy)-2-methyl-benzoic acid | COC1=CC(=C(C(=O)O)C=C1OCCCOC)C | C13H18O5
